* C:\Users\critt\Documents\EE_331\EE_331_Final\555\555.asc
XU1 0 N002 N004 N001 N005 N002 N003 N001 NE555
R1 N001 N003 33000
R2 N003 N002 1000
C1 N002 0 0.000000001
C2 N005 0 0.000000001
R3 N004 0 1
V1 N001 0 10
.tran 0 0.0001 0 0.00001
.lib NE555.sub
.backanno
.end
